US05112947
(1) Boc-Ala-Pro-Arg(NO2)-OBzl
The desired compound was prepared from 28.9 g of Boc-Pro-Arg(NO2)-OBzl, 150 ml of 4N HCl-AcOEt, 8 ml of Et3N and 16.3 g of Boc-Ala-OSu in the same manner as in Example 8-(1).

reactant | Boc-Pro-Arg(NO2)-OBzl | 28.9 g | N1([C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C23H34N6O7
reactant | HCl AcOEt | 4N, 150 ml | Cl.CCOC(=O)C
reactant | Boc-Ala-OSu | 16.3 g | N([C@@H](C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C12H18N2O6
solvent | Et3N | 8 ml | CCN(CC)CC | C6H15N
product | Boc-Ala-Pro-Arg(NO2)-OBzl | N([C@@H](C)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C26H39N7O8
